data/oMe_Silver.jsonl
{"reaction_id": "NR-073_1-C(C)(C)C_2-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2","name": "Fritsch-Buttenberg-Wiechell Rearrangement","level": "medium","reactants_smiles": ["C(=C(Br))(C(C)(C)C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)"],"products_smiles": ["C(C(C)(C)C)#C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)"],"conditions": "Base (e.g., LDA)","mechnism_text_description": "The Fritsch-Buttenberg-Wiechell rearrangement begins with the deprotonation of the vinylic hydrogen by a strong base, forming a vinyl anion. This is followed by an α-elimination of the halide, which generates a vinyl carbene intermediate. The final step involves a 1,2-migration of one of the R groups, leading to the formation of the alkyne product.","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=[C-]Br)(C(C)(C)C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)","step_weight": 0,"rationale": "LDA, a strong non-nucleophilic base, abstracts the acidic vinylic proton due to the adjacent electron-withdrawing bromine, stabilizing the resulting vinyl anion via inductive effects."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=[C])(C(C)(C)C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)","step_weight": 0,"rationale": "The negatively charged carbon promotes α-elimination of bromide, a good leaving group, forming a high-energy vinyl carbene stabilized transiently by adjacent substituents."},{"step": 3,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(C(C)(C)C)#C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)","step_weight": 0,"rationale": "The carbene undergoes a 1,2-shift of C(C)(C)C or CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2 to relieve electron deficiency, forming the more stable, conjugated alkyne via rehybridization to sp."}],"description": "A strong base deprotonates the vinylic position to generate a vinyl anion, which undergoes α-elimination of bromide to form a reactive vinyl carbene. A 1,2-shift of an R group then produces the thermodynamically stable alkyne product."}
{"reaction_id": "NR-034_1-CC(C)C_2-C1=CC=C(C=C1)C2=CC=CC=C2_3-Br_4-Cl","name": "Burgess Dehydration","level": "easy","reactants_smiles": ["C(CC(C)C)(C1=CC=C(C=C1)C2=CC=CC=C2)(O)C(Br)(Cl)","COC(=O)[N-]S(=O)(=O)[N+](CC)(CC)CC"],"products_smiles": ["C(CC(C)C)(C1=CC=C(C=C1)C2=CC=CC=C2)=C(Br)(Cl)"],"conditions": "Burgess Reagent (the second reactant)","mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "COC(=O)[N-]S(=O)(=O)[OH+](C(CC(C)C)(C1=CC=C(C=C1)C2=CC=CC=C2)C(Br)(Cl))","rationale": "The electrophilic sulfur in the Burgess reagent is activated by electron-withdrawing sulfonyl and carbamate groups, allowing nucleophilic attack by the alcohol oxygen to form a sulfamate ester intermediate."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "COC(=O)[N-]S(=O)(=O)OC(CC(C)C)(C1=CC=C(C=C1)C2=CC=CC=C2)C(Br)(Cl)","rationale": "Proton transfer from the oxonium intermediate to the carbamate nitrogen neutralizes charge, stabilizing the intermediate and preparing the oxygen for elimination."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(CC(C)C)(C1=CC=C(C=C1)C2=CC=CC=C2)=C(Br)(Cl)","rationale": "The sulfamate group is an excellent leaving group due to resonance stabilization and electron-withdrawing substituents, enabling β-elimination to form the alkene under mild conditions."}],"description": "The Burgess reagent, a mild dehydrating agent, reacts with the alcohol to form a sulfamate ester intermediate. Under the reaction conditions, intramolecular elimination occurs, driven by the good leaving group ability of the sulfamate, yielding the alkene product under mild, non-acidic conditions."}
